US04192871
2β-Chloro-11β-diethylaminoacetoxy-3α-hydroxy-5α-pregnan-20-one
A solution of 11β-diethylaminoacetoxy-2α,3α-epoxy-5α-pregnan-20-one (800 mg) in concentrated hydrochloric acid (6 ml) was kept at room temperature for 15 minutes and then diluted with a large excess of sodium bicarbonate solution. The precipitated solid (767 mg) was collected by filtration and purified by preparative TLC (ethylacetate) and crystallization from petroleum ether to afford title compound, (305 mg). m.p. 182°-187°, [α]D +101.4°.

reactant | 11β-diethylaminoacetoxy-2α,3α-epoxy-5α-pregnan-20-one | 800 mg | C(C)N(CC)CC(=O)O[C@@H]1[C@@H]2[C@]3(C[C@@H]4[C@H](C[C@@H]3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@]2(C1)C)O4)C | C27H43NO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 6 ml | Cl | ClH
product | 2β-Chloro-11β-diethylaminoacetoxy-3α-hydroxy-5α-pregnan-20-one | 305 mg | Cl[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(C[C@@H]([C@@H]3[C@]2(C1)C)OC(CN(CC)CC)=O)C)O | C27H44ClNO4
